US04125516
1,1'-Methylene-bis[3-(3-acryloyloxy-2-hydroxypropyl)-5,5-dimethylhydantoin] is prepared by the reaction of acrylic acid and 1,1'-methylene-bis[3-glycidyl-5,5-dimethylhydantoin], see preparation in Example 3b, according to Example 1 of U.S. Pat. No. 3,808,226.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | 1,1'-methylene-bis[3-glycidyl-5,5-dimethylhydantoin] | C(N1C(=O)N(C(=O)C1(C)C)CC1CO1)N1C(=O)N(C(=O)C1(C)C)CC1CO1 | C17H24N4O6
product | 1,1'-Methylene-bis[3-(3-acryloyloxy-2-hydroxypropyl)-5,5-dimethylhydantoin] | C(N1C(=O)N(C(=O)C1(C)C)CC(COC(C=C)=O)O)N1C(=O)N(C(=O)C1(C)C)CC(COC(C=C)=O)O | C23H32N4O10
